US06413938B1
5,6-Dichloro-2-ethenyl-1-(5deoxy-beta-D-ribofuranosyl)-1H-benzimidazole
5,6-Dichloro-2-ethynyl-1-(2,3-di-O-acetyl-5-deoxy-beta-D-ribofuranosyl) 1H-benzimidazole (0.85 g, 0.20 mmol) was deprotected using general procedure III. Crude product was purified by silica gel chromatography using 1:10 methanol:dichloromethane to give the title compound as an off white solid (0.04 g, 0.12 mmol, 59%); MS (ES+): m/z (rel. intensity) 351 (15, M++Na);

reactant | 5,6-Dichloro-2-ethynyl-1-(2,3-di-O-acetyl-5-deoxy-beta-D-ribofuranosyl) 1H-benzimidazole | 0.20 mmol, 0.85 g | ClC1=CC2=C(N(C(=N2)C#C)[C@H]2[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O2)C)C=C1Cl | C18H16Cl2N2O5
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5,6-Dichloro-2-ethenyl-1-(5deoxy-beta-D-ribofuranosyl)-1H-benzimidazole | ClC1=CC2=C(N(C(=N2)C=C)[C@H]2[C@H](O)[C@H](O)[C@H](O2)C)C=C1Cl | C14H14Cl2N2O3
